US05883093
Step 2: 4-[3-[(tert-butyldimethylsilyl)oxy]-1-azetidinyl]-3-fluoronitrobenzene
A solution of 3-fluoro-4-(3-hydroxy-1-azetidinyl)nitrobenzene (5.51 g, 26.0 mmol) in N,N-dimethylformamide (104 mL) under nitrogen was cooled to 0° C. with an ice bath and treated with imidazole (1.86 g, 27.3 mmol) and then tert-butyldimethylsilyl chloride (4.12 g, 27.3 mmol). The reaction mixture was stirred at 0° C. for 30 min and then at room temperature overnight. TLC analysis (5% methanol/chloroform) at this time revealed a small amount of starting material still remained. An additional amount of tert-butyldimethylsilyl chloride (0.392 g) was added. After stirring overnight, TLC analysis indicated the reaction was complete. The reaction mixture was diluted with water (500 mL) and extracted with dichloromethane (4×70 mL). The combined organic extracts were washed with water and brine, dried over sodium sulfate, filtered and concentrated under reduced pressure to a yellow solid. Chromatography over silica gel (200 g), eluting with 5% and 10% ethyl acetate/hexane, afforded, after concentration of appropriate fractions, 6.30 g (74%) of the title compound as a yellow solid with mp 98.5°-99.5° C. and MS(EI) 326 (M+).

reactant | 3-fluoro-4-(3-hydroxy-1-azetidinyl)nitrobenzene | 26.0 mmol, 5.51 g | FC=1C=C(C=CC1N1CC(C1)O)[N+](=O)[O-] | C9H9FN2O3
reactant | imidazole | 27.3 mmol, 1.86 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 27.3 mmol, 4.12 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | methanol chloroform | CO.C(Cl)(Cl)Cl
reactant | tert-butyldimethylsilyl chloride | 0.392 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | N,N-dimethylformamide | 104 mL | CN(C=O)C | C3H7NO
solvent | water | 500 mL | O | H2O
product | 4-[3-[(tert-butyldimethylsilyl)oxy]-1-azetidinyl]-3-fluoronitrobenzene | 6.30 g, 74% | [Si](C)(C)(C(C)(C)C)OC1CN(C1)C1=C(C=C(C=C1)[N+](=O)[O-])F | C15H23FN2O3Si
